2182-08-26 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Transfused 2 units PRBCs, Hct 27.4->28.4, transfused 1 unit PRBCs,
   repeat Hct 30.0.
   Per GI, colonoscopy today- may do on floor or while still in MICU.
   Prep is continuing.  BRB this morning.
   Restarted some home meds (sertraline, zocor, namenda, razadyne)
 EKG - At [**2182-8-25**] 08:26 AM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2182-8-25**] 02:00 PM
   Pantoprazole (Protonix) - [**2182-8-26**] 12:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-26**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 97 (77 - 106) bpm
   BP: 101/61(82) {87/43(29) - 117/72(82)} mmHg
   RR: 24 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,660 mL
                                                                    861 mL
   PO:
                                                                  1,260 mL
                                                                    720 mL
   TF:
   IVF:
                                                                    561 mL
                                                                    141 mL
   Blood products:
                                                                    839 mL
   Total out:
                                                                  3,410 mL
                                                                    720 mL
   Urine:
                                                                  3,410 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                    141 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.33/41/69/25/-4
   Physical Examination
   General: No acute distress, conversant, interactive
   HEENT: NCAT, PERRL
   CV: irreg irreg
   Skin:  ecchymoses of bilat UE around PIVs, warm
   Abd: soft, nontender
   Ext: bilat BKAs
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   108 K/uL
   10.1 g/dL
   104 mg/dL
   2.1 mg/dL
   25 mEq/L
   3.9 mEq/L
   37 mg/dL
   112 mEq/L
   143 mEq/L
   30.3 %
   8.4 K/uL
        [image002.jpg]
                             [**2182-8-25**]  02:12 AM
                             [**2182-8-25**]  06:15 AM
                             [**2182-8-25**]  07:02 AM
                             [**2182-8-25**]  02:09 PM
                             [**2182-8-25**]  05:01 PM
                             [**2182-8-25**]  09:57 PM
                             [**2182-8-25**]  10:08 PM
                             [**2182-8-26**]  03:20 AM
   WBC
   7.1
   8.4
   Hct
   30.0
   27.4
   28.8
   28.4
   30.0
   30.3
   Plt
   103
   108
   Cr
   1.9
   2.0
   2.1
   TropT
   0.02
   TCO2
   23
   Glucose
   118
   127
   104
   Other labs: PT / PTT / INR:14.2/28.4/1.2, CK / CKMB /
   Troponin-T:52//0.02, ALT / AST:[**10-21**], Alk Phos / T Bili:65/1.9, Amylase
   / Lipase:37/28, Differential-Neuts:74.5 %, Lymph:18.6 %, Mono:5.5 %,
   Eos:1.1 %, Albumin:3.0 g/dL, LDH:166 IU/L, Ca++:7.1 mg/dL, Mg++:2.1
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   80-M s/ MMP incl dementia, CAD, chronic Afib, CHF, CRI, and
   diverticulosis, p/w multiple episodes of BRBPR with dropping Hct and HD
   instability manifesting as hypotension. Received 4units PRBCs, 2units
   FFP, Vit K, 3.5L NS at OSH with continued drop in Hct to 27.4. Gave
   another 2 un pRBCs with increase to 28 followed by an additional 1un to
   HCT of 30.
   #. GI bleeding
 Continued BRBPR with HCT stable at 29-30. Likely
   source is lower, esp. given h/o diverticulosis, but rapid upper source
   cannot be entirely excluded. NG lavage at OSH reportedly negative. CT
   to eval AAA s/p endovascular repair reportedly negative. GI plans to
   scope today, either on the floor or while still in the MICU.  Also,
   seen by Surgery in ED, who feel pt will likely need tagged-RBC scan +/-
   angiography prior to potential scope, however, will hold on this for
   now.
   - serial Hcts q6hrs
   - If Hcts still dropping or evidence of continued bleeding, may
   consider STAT tagged-RBC scan +/- angiography
   - IV PPI [**Hospital1 **]
   - appreciate GI and Surgery recs, cont to follow
   - active type-and-cross
   - transfusion threshold >30 given cardiac history
   - multiple large-bore PIVs
   - hold anti-platelets, anti-coagulation, and anti-hypertensives  in
   setting of GI bleed
   - gentle hydration given CHF history and unknown EF
   - monitor on telemetry
   .
   #. Coagulopathy
 Resolved, INR 1.2 this am. Pt w/ INR 1.4 on admit,
   after receiving 2units FFP and Vit K at OSH. Unclear reason for
   elevated INR.
   - cont to monitor with serial coags and can transfuse FFP PRN if INR
   >1.5
   .
   #. CAD - Pt w/ h/o CAD s/p CABG [**2173**], cardiac stents x2, unclear
   [**Name2 (NI) 4417**]. Pt is currently not taking ASA or Plavix per med list from
   pt
s [**Hospital3 **].  Attempted to contact the PCP as to reason.  Will
   continue to hold for now.
   - holding all anti-platelets / anti-coagulation
   - holding all anti-hypertensives in setting of HD instability as above
   .
   #. Chronic atrial-fibrillation - Rate-controlled w/ BB, no
   anti-coagulation. Has pacemaker in place.
   - holding all anti-platelets / anti-coagulation
   - holding all anti-hypertensives in setting of HD instability as above
   - monitor on telemetry
   .
   #. Congestive heart failure - Pt maintained on BB and ACE-I at home.
   - holding all anti-hypertensives in setting of HD instability as above
   - gentle hydration given CHF history and unknown EF
   .
   #. AAA s/p endovascular repair - Pt had CT at OSH to eval endovascular
   repair of AAA, which was negative.
   .
   #. Hypertension - holding all anti-hypertensives in setting of HD
   instability as above
   .
   #. Hyperlipidemia
 on Zocor
   .
   #. Chronic renal insufficiency
 Creatinine at baseline of 2
   - cont to monitor
   .
   #. Depression
 on Sertraline
   .
   #. Dementia
 on Namenda and galantamine
   .
   #. FEN
 Advanced diet, but made NPO for scope and bowel prep.  IVF as
   needed
   .
   #. Access - multiple large-bore PIVs (16g x2, 18g x1, 20g x1); removed
   20g on [**8-26**]
   .
   #. PPx - pneumoboots, IV PPI [**Hospital1 **], no SQ Hep or bowel regimen given GIB
   .
   #. Code - FULL CODE (presumed)
   .
   #. Communication - [**First Name8 (NamePattern2) 4418**] [**Last Name (NamePattern1) **] (h)[**Telephone/Fax (1) 4419**], (c)[**Telephone/Fax (1) 4420**]; [**First Name8 (NamePattern2) 838**]
   [**Last Name (NamePattern1) 4421**] (h)[**Telephone/Fax (1) 4422**].  Patient
s PCP is [**Last Name (NamePattern4) **]. [**First Name4 (NamePattern1) 2429**] [**Last Name (NamePattern1) 4462**],
   [**Telephone/Fax (1) 4463**], [**Location (un) 108**], MA.  Lives in [**Hospital3 4464**]
   who is faxing a copy of the patient
s current meds.  Has meds delivered
   from [**First Name7 (NamePattern1) 2667**]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **].
   .
   #. Dispo - ICU
   ICU Care
   Nutrition: NPO after midnight for colonoscopy today
   Glycemic Control:
   Lines:
   16 Gauge - [**2182-8-25**] 01:47 AM
   18 Gauge - [**2182-8-25**] 01:49 AM
   20 Gauge - [**2182-8-25**] 01:50 AM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Main family contact will be [**Name (NI) 838**] [**Last Name (NamePattern1) 4421**] as [**Name (NI) 4418**] [**Last Name (NamePattern1) **] will be
   on vacation.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2182-8-26**] 03:06 PM ------

2182-08-26 11:18:00 Physician Attending Progress Note
Chief Complaint: LGIB.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo man with h/o  dementia, CAD, p/w with BRBPR.  Hct 27 to 28 to 30
   with 2 units.  To get colonoscopy today.  No BRBPR overnigh, but with
   BRB this AM
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2182-8-25**] 02:00 PM
   Pantoprazole (Protonix) - [**2182-8-26**] 12:24 AM
   Other medications:
   sertraline
   simvastatin
   namenda
   resadyne
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-26**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 96 (78 - 106) bpm
   BP: 120/61(73) {87/43(29) - 122/70(83)} mmHg
   RR: 29 (14 - 35) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,660 mL
                                                                  1,511 mL
   PO:
                                                                  1,260 mL
                                                                  1,280 mL
   TF:
   IVF:
                                                                    561 mL
                                                                    231 mL
   Blood products:
                                                                    839 mL
   Total out:
                                                                  3,410 mL
                                                                  1,060 mL
   Urine:
                                                                  3,410 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                    451 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   minimal basilar)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   108 K/uL
   104 mg/dL
   2.1 mg/dL
   25 mEq/L
   3.9 mEq/L
   37 mg/dL
   112 mEq/L
   143 mEq/L
   29.2 %
   8.4 K/uL
        [image002.jpg]
                             [**2182-8-25**]  02:12 AM
                             [**2182-8-25**]  06:15 AM
                             [**2182-8-25**]  07:02 AM
                             [**2182-8-25**]  02:09 PM
                             [**2182-8-25**]  05:01 PM
                             [**2182-8-25**]  09:57 PM
                             [**2182-8-25**]  10:08 PM
                             [**2182-8-26**]  03:20 AM
                             [**2182-8-26**]  06:35 AM
   WBC
   7.1
   8.4
   Hct
   30.0
   27.4
   28.8
   28.4
   30.0
   30.3
   29.2
   Plt
   103
   108
   Cr
   1.9
   2.0
   2.1
   TropT
   0.02
   TCO2
   23
   Glucose
   118
   127
   104
   Other labs: PT / PTT / INR:14.2/28.4/1.2, CK / CKMB /
   Troponin-T:52//0.02, ALT / AST:[**10-21**], Alk Phos / T Bili:65/1.9, Amylase
   / Lipase:37/28, Differential-Neuts:74.5 %, Lymph:18.6 %, Mono:5.5 %,
   Eos:1.1 %, Albumin:3.0 g/dL, LDH:166 IU/L, Ca++:7.1 mg/dL, Mg++:2.1
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   LGIB/Anemia:  Continued BRBPR this morning.  To get colonoscopy today.
   Like diverticular bleed, given h/o diverticulosis.
   Coagulopathy:  Has resolved.
   Increased respiratory rate: [**Month (only) 60**] be due to chest wall dysfunction from
   sternum as lungs with minmal crackles
   Chronic AF:  HR well controlled.
   AAA s/p repair
   chronic renal failure:  Creatinine at baseline.
   Mild Dementia:
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   16 Gauge - [**2182-8-25**] 01:47 AM
   18 Gauge - [**2182-8-25**] 01:49 AM
   20 Gauge - [**2182-8-25**] 01:50 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2182-08-27 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Sgy recommended serial exams and colonoscopy tomorrow once golytely has
   cleared.
   Pts hcts remained stable at ~30.
   Home meds are in chart.
   Started maintenance fluids with KCl while patient NPO overnight. (D5
   1/2NS @80mL/hr for 1000mL)
   Had frequent PVCs on monitor overnight. Electrolytes sent. K repleted.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-27**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 111 (92 - 111) bpm
   BP: 94/56(63) {91/47(63) - 126/73(91)} mmHg
   RR: 25 (19 - 42) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
           Total In:
                                                                  2,666 mL
                                                                  1,119 mL
   PO:
                                                                  2,105 mL
                                                                    175 mL
   TF:
   IVF:
                                                                    561 mL
                                                                    475 mL
   Blood products:
   469 mL
   Total out:
                                                                  2,405 mL
                                                                    385 mL
   Urine:
                                                                  1,905 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    261 mL
                                                                    734 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   108 K/uL
   9.9 g/dL
   121 mg/dL
   1.7 mg/dL
   24 mEq/L
   3.8 mEq/L
   28 mg/dL
   111 mEq/L
   144 mEq/L
   29.1 %
   7.4 K/uL
        [image002.jpg]
                             [**2182-8-25**]  02:09 PM
                             [**2182-8-25**]  05:01 PM
                             [**2182-8-25**]  09:57 PM
                             [**2182-8-25**]  10:08 PM
                             [**2182-8-26**]  03:20 AM
                             [**2182-8-26**]  06:35 AM
                             [**2182-8-26**]  10:56 AM
                             [**2182-8-26**]  05:25 PM
                             [**2182-8-26**]  11:14 PM
                             [**2182-8-27**]  03:33 AM
   WBC
   8.4
   7.4
   Hct
   28.8
   28.4
   30.0
   30.3
   29.2
   30.1
   30.5
   28.6
   29.1
   Plt
   108
   108
   Cr
   2.0
   2.1
   1.7
   Glucose
   127
   104
   121
   Other labs: PT / PTT / INR:14.2/28.5/1.2, CK / CKMB /
   Troponin-T:52//0.02, ALT / AST:[**10-21**], Alk Phos / T Bili:65/1.9, Amylase
   / Lipase:37/28, Differential-Neuts:74.5 %, Lymph:18.6 %, Mono:5.5 %,
   Eos:1.1 %, Albumin:3.0 g/dL, LDH:166 IU/L, Ca++:7.1 mg/dL, Mg++:1.9
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   80-M s/ MMP incl dementia, CAD, chronic Afib, CHF, CRI, and
   diverticulosis, p/w multiple episodes of BRBPR with dropping Hct and HD
   instability manifesting as hypotension. Received 4units PRBCs, 2units
   FFP, Vit K, 3.5L NS at OSH with continued drop in Hct to 27.4. Gave
   another 2 un pRBCs with increase to 28 followed by an additional 1un to
   HCT of 30.
   #. GI bleeding
 Continued BRBPR with HCT stable at 29-30. Likely
   source is lower, esp. given h/o diverticulosis, but rapid upper source
   cannot be entirely excluded. NG lavage at OSH reportedly negative. CT
   to eval AAA s/p endovascular repair reportedly negative. GI plans to
   scope today, either on the floor or while still in the MICU.  Also,
   seen by Surgery in ED, who feel pt will likely need tagged-RBC scan +/-
   angiography prior to potential scope, however, will hold on this for
   now.
   - serial Hcts q6hrs
   - If Hcts still dropping or evidence of continued bleeding, may
   consider STAT tagged-RBC scan +/- angiography
   - IV PPI [**Hospital1 **]
   - appreciate GI and Surgery recs, cont to follow
   - active type-and-cross
   - transfusion threshold >30 given cardiac history
   - multiple large-bore PIVs
   - hold anti-platelets, anti-coagulation, and anti-hypertensives  in
   setting of GI bleed
   - gentle hydration given CHF history and unknown EF
   - monitor on telemetry
   .
   #. Coagulopathy
 Resolved, INR 1.2 this am. Pt w/ INR 1.4 on admit,
   after receiving 2units FFP and Vit K at OSH. Unclear reason for
   elevated INR.
   - cont to monitor with serial coags and can transfuse FFP PRN if INR
   >1.5
   .
   #. CAD - Pt w/ h/o CAD s/p CABG [**2173**], cardiac stents x2, unclear
   [**Name2 (NI) 4417**]. Pt is currently not taking ASA or Plavix per med list from
   pt
s [**Hospital3 **].  Attempted to contact the PCP as to reason.  Will
   continue to hold for now.
   - holding all anti-platelets / anti-coagulation
   - holding all anti-hypertensives in setting of HD instability as above
   .
   #. Chronic atrial-fibrillation - Rate-controlled w/ BB, no
   anti-coagulation. Has pacemaker in place.
   - holding all anti-platelets / anti-coagulation
   - holding all anti-hypertensives in setting of HD instability as above
   - monitor on telemetry
   .
   #. Congestive heart failure - Pt maintained on BB and ACE-I at home.
   - holding all anti-hypertensives in setting of HD instability as above
   - gentle hydration given CHF history and unknown EF
   .
   #. AAA s/p endovascular repair - Pt had CT at OSH to eval endovascular
   repair of AAA, which was negative.
   .
   #. Hypertension - holding all anti-hypertensives in setting of HD
   instability as above
   .
   #. Hyperlipidemia
 on Zocor
   .
   #. Chronic renal insufficiency
 Creatinine at baseline of 2
   - cont to monitor
   .
   #. Depression
 on Sertraline
   .
   #. Dementia
 on Namenda and galantamine
   .
   #. FEN
 Advanced diet, but made NPO for scope and bowel prep.  IVF as
   needed
   .
   #. Access - multiple large-bore PIVs (16g x2, 18g x1, 20g x1); removed
   20g on [**8-26**]
   .
   #. PPx - pneumoboots, IV PPI [**Hospital1 **], no SQ Hep or bowel regimen given GIB
   .
   #. Code - FULL CODE (presumed)
   .
   #. Communication - [**First Name8 (NamePattern2) 4418**] [**Last Name (NamePattern1) **] (h)[**Telephone/Fax (1) 4419**], (c)[**Telephone/Fax (1) 4420**]; [**First Name8 (NamePattern2) 838**]
   [**Last Name (NamePattern1) 4421**] (h)[**Telephone/Fax (1) 4422**].  Patient
s PCP is [**Last Name (NamePattern4) **]. [**First Name4 (NamePattern1) 2429**] [**Last Name (NamePattern1) 4462**],
   [**Telephone/Fax (1) 4463**], [**Location (un) 108**], MA.  Lives in [**Hospital3 4464**]
   who is faxing a copy of the patient
s current meds.  Has meds delivered
   from [**First Name7 (NamePattern1) 2667**]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **].
   .
   #. Dispo - ICU
   ICU Care
   Nutrition: NPO after midnight for colonoscopy today
   Glycemic Control:
   Lines:
   16 Gauge - [**2182-8-25**] 01:47 AM
   18 Gauge - [**2182-8-25**] 01:49 AM
   20 Gauge - [**2182-8-25**] 01:50 AM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2182-8-25**] 01:47 AM
   18 Gauge - [**2182-8-25**] 01:49 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-08-27 11:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   80 yo man with admitted with LGIB/BRBRP
   24 Hour Events:
   Required 2U overnight.  Continued red stools.  Hct did not change after
   1st unit.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   protonix
   zoloft
   lipitor
   nimenda
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:  no blood BMs overnight
   Flowsheet Data as of  [**2182-8-27**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 118 (92 - 118) bpm
   BP: 117/80(86) {91/47(63) - 126/80(91)} mmHg
   RR: 37 (19 - 42) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
           Total In:
                                                                  2,666 mL
                                                                  1,782 mL
   PO:
                                                                  2,105 mL
                                                                    335 mL
   TF:
   IVF:
                                                                    561 mL
                                                                    889 mL
   Blood products:
   558 mL
   Total out:
                                                                  2,405 mL
                                                                    685 mL
   Urine:
                                                                  1,905 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    261 mL
                                                                  1,097 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   108 K/uL
   121 mg/dL
   1.7 mg/dL
   24 mEq/L
   3.8 mEq/L
   28 mg/dL
   111 mEq/L
   144 mEq/L
   29.1 %
   7.4 K/uL
        [image002.jpg]
                             [**2182-8-25**]  02:09 PM
                             [**2182-8-25**]  05:01 PM
                             [**2182-8-25**]  09:57 PM
                             [**2182-8-25**]  10:08 PM
                             [**2182-8-26**]  03:20 AM
                             [**2182-8-26**]  06:35 AM
                             [**2182-8-26**]  10:56 AM
                             [**2182-8-26**]  05:25 PM
                             [**2182-8-26**]  11:14 PM
                             [**2182-8-27**]  03:33 AM
   WBC
   8.4
   7.4
   Hct
   28.8
   28.4
   30.0
   30.3
   29.2
   30.1
   30.5
   28.6
   29.1
   Plt
   108
   108
   Cr
   2.0
   2.1
   1.7
   Glucose
   127
   104
   121
   Other labs: PT / PTT / INR:14.2/28.5/1.2, CK / CKMB /
   Troponin-T:52//0.02, ALT / AST:[**10-21**], Alk Phos / T Bili:65/1.9, Amylase
   / Lipase:37/28, Differential-Neuts:74.5 %, Lymph:18.6 %, Mono:5.5 %,
   Eos:1.1 %, Albumin:3.0 g/dL, LDH:166 IU/L, Ca++:7.1 mg/dL, Mg++:1.9
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   GIB:  BMs cleared overnight with some residual stool this morning.
   Colonoscopy today.
   Rapid AF:  Restart beta blocker.
   CAD:  Holding asa.
   CHF:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2182-8-25**] 01:47 AM
   18 Gauge - [**2182-8-25**] 01:49 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2182-08-28 05:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Completeg GoLytely, now stooling clear, bloody fluid. GI will
   consider colonscopy today
   - HCT stable for now
   - PICC pending for access
   - Frequent PVCs ON. Given one dose of metoprolol. No effect. Increased
   standing metoprolol 25mg TID for better control as BPs have been higher
   over the last day.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-28**] 05:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.5
   HR: 96 (83 - 118) bpm
   BP: 106/66(76) {94/47(63) - 126/80(86)} mmHg
   RR: 31 (22 - 42) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,855 mL
                                                                    628 mL
   PO:
                                                                    585 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  1,712 mL
                                                                    578 mL
   Blood products:
                                                                    558 mL
   Total out:
                                                                  1,340 mL
                                                                    194 mL
   Urine:
                                                                  1,080 mL
                                                                    194 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,515 mL
                                                                    434 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99% on RA
   ABG: ///23/
   Physical Examination
   GEN: NAD sleeping
   HEENT: MMM
   LUNGS: No sternum s/p surgery. CTA anteriorly
   ABD: Soft. NT
   EXTREM: Warm.
   Labs / Radiology
   115 K/uL
   10.5 g/dL
   134 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.4 mEq/L
   25 mg/dL
   111 mEq/L
   144 mEq/L
   31.4 %
   9.6 K/uL
        [image002.jpg]
                             [**2182-8-26**]  10:56 AM
                             [**2182-8-26**]  05:25 PM
                             [**2182-8-26**]  11:14 PM
                             [**2182-8-27**]  03:33 AM
                             [**2182-8-27**]  10:28 AM
                             [**2182-8-27**]  02:27 PM
                             [**2182-8-27**]  06:07 PM
                             [**2182-8-27**]  10:00 PM
                             [**2182-8-28**]  03:50 AM
                             [**2182-8-28**]  04:13 AM
   WBC
   7.4
   9.6
   Hct
   30.1
   30.5
   28.6
   29.1
   33.3
   30.8
   33.4
   33.0
   31.4
   Plt
   108
   115
   Cr
   1.7
   1.8
   1.7
   Glucose
   121
   134
   139
   134
   Other labs: PT / PTT / INR:14.7/30.8/1.3, CK / CKMB /
   Troponin-T:52//0.02, ALT / AST:[**10-21**], Alk Phos / T Bili:65/1.9, Amylase
   / Lipase:37/28, Differential-Neuts:74.5 %, Lymph:18.6 %, Mono:5.5 %,
   Eos:1.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:166 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   80-M s/ MMP incl dementia, CAD, chronic Afib, CHF, CRI, and
   diverticulosis, p/w multiple episodes of BRBPR with dropping Hct and HD
   instability manifesting as hypotension. Has required a total of 5U
   pRBC. HCT now stable.
   #. GI bleeding
 Stools now clear with HCT stable at ~30. Likely source
   is lower, esp. given h/o diverticulosis. GI plans to scope today.
   - serial Hcts q6hrs
   - If Hcts still dropping or evidence of continued bleeding, may
   consider STAT tagged-RBC scan +/- angiography
   - IV PPI [**Hospital1 **]
   - appreciate GI and Surgery recs, cont to follow
   - active type-and-cross
   - transfusion threshold >30 given cardiac history
   - multiple large-bore PIVs, but access is an issue.
   - hold anti-platelets, anti-coagulation, and anti-hypertensives  in
   setting of GI bleed
   #. Coagulopathy
 Resolved, INR 1.2 this am. Pt w/ INR 1.4 on admit,
   after receiving 2units FFP and Vit K at OSH. Unclear reason for
   elevated INR.
   - cont to monitor with serial coags and can transfuse FFP PRN if INR
   >1.5
   #. CAD - Pt w/ h/o CAD s/p CABG [**2173**], cardiac stents x2, unclear
   [**Name2 (NI) 4417**]. Pt is currently not taking ASA or Plavix per med list from
   pt
s [**Hospital3 **].  Attempted to contact the PCP as to reason.  Will
   continue to hold for now.
   - Restart BB, Metoprolol 12.5 mg po BID for frequent PVCs
   - PVCs have continued ON. Received an additional dose of 12.5
   metoprolol
   #. Chronic atrial-fibrillation - Rate-controlled w/ BB, no
   anti-coagulation. Has pacemaker in place.
   -Restarting BB for PVCs, will also help with rate control
   .
   #. Congestive heart failure - Pt maintained on BB and ACE-I at home.
   Unknown EF
   .
   #. AAA s/p endovascular repair - Pt had CT at OSH to eval endovascular
   repair of AAA, which was negative.
   .
   #. Hypertension
 on BB
   #. Hyperlipidemia
 on Zocor
   #. Chronic renal insufficiency
 Creatinine at baseline of 2
   - cont to monitor
   .
   #. Depression
 on Sertraline
   #. Dementia
 on Namenda and galantamine
   #. FEN
NPO for scope and bowel prep.  IVF as needed, replete lytes as
   needed.  Monitor K given PVCs. Will replete Mg to 2.
   #. Access - multiple large-bore PIVs (16g x2, 18g x1, 20g x1); removed
   20g on [**8-26**]
   #. PPx - pneumoboots, IV PPI [**Hospital1 **], no SQ Hep or bowel regimen given GIB
   #. Code - FULL CODE (presumed)
   #. Communication - [**First Name8 (NamePattern2) 4418**] [**Last Name (NamePattern1) **] (h)[**Telephone/Fax (1) 4419**], (c)[**Telephone/Fax (1) 4420**]; [**First Name8 (NamePattern2) 838**]
   [**Last Name (NamePattern1) 4421**] (h)[**Telephone/Fax (1) 4422**].  Patient
s PCP is [**Last Name (NamePattern4) **]. [**First Name4 (NamePattern1) 2429**] [**Last Name (NamePattern1) 4462**],
   [**Telephone/Fax (1) 4463**], [**Location (un) 108**], MA.  Lives in [**Hospital3 4464**]
   who is faxing a copy of the patient
s current meds.  Has meds delivered
   from [**First Name7 (NamePattern1) 2667**]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **].
   #. Dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-8-25**] 01:49 AM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  IV PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor today to have scope by GI later today.

2182-08-28 11:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Did well with stable Hct.  Few reddish stools
   Colonoscopy today - diverticulosis, no active bleeding.  Polyp.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   protonix
   simvastatin
   lopressor
   nimenda
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-8-28**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.1
C (96.9
   HR: 90 (82 - 114) bpm
   BP: 112/62(73) {96/46(63) - 220/179(96)} mmHg
   RR: 31 (22 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 70 Inch
             Total In:
                                                                  2,834 mL
                                                                  1,128 mL
   PO:
                                                                    585 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  1,691 mL
                                                                  1,078 mL
   Blood products:
                                                                    558 mL
   Total out:
                                                                  1,340 mL
                                                                    349 mL
   Urine:
                                                                  1,080 mL
                                                                    349 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,494 mL
                                                                    779 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles
   bilaterally : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   115 K/uL
   134 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.4 mEq/L
   25 mg/dL
   111 mEq/L
   144 mEq/L
   31.4 %
   9.6 K/uL
         [image002.jpg]
                             [**2182-8-26**]  10:56 AM
                             [**2182-8-26**]  05:25 PM
                             [**2182-8-26**]  11:14 PM
                             [**2182-8-27**]  03:33 AM
                             [**2182-8-27**]  10:28 AM
                             [**2182-8-27**]  02:27 PM
                             [**2182-8-27**]  06:07 PM
                             [**2182-8-27**]  10:00 PM
                             [**2182-8-28**]  03:50 AM
                             [**2182-8-28**]  04:13 AM
   WBC
   7.4
   9.6
   Hct
   30.1
   30.5
   28.6
   29.1
   33.3
   30.8
   33.4
   33.0
   31.4
   Plt
   108
   115
   Cr
   1.7
   1.8
   1.7
   Glucose
   121
   134
   139
   134
   Other labs: PT / PTT / INR:14.7/30.8/1.3, CK / CKMB /
   Troponin-T:52//0.02, ALT / AST:[**10-21**], Alk Phos / T Bili:65/1.9, Amylase
   / Lipase:37/28, Differential-Neuts:74.5 %, Lymph:18.6 %, Mono:5.5 %,
   Eos:1.1 %, Lactic Acid:0.9 mmol/L, Albumin:3.1 g/dL, LDH:166 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   LGIB:  Likely diverticular bleed that seems to have stopped.  Also with
   polyp that will need follow up.  Hct now stable.  Change  PPI to PO.
   CAD: beta blocker titrated up to control HR and PVCs.
   AFib:  HR controlled
   chronic systolic HF:  Can restart ace inhibitor over subsequent days.
   [**Month (only) 60**] need some diuresis as has crackles on exam.
   Chronic Renal Failure:  Stable
   Dementia:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2182-8-25**] 01:49 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes